US09315521B2
To a 0° C. solution of methyl 2,5-dichlorothiophene-3-carboxylate (1.5 g, 7.1 mmol) in anhydrous methanol (50 mL) was added sodium borohydride (1.35 g, 35.7 mmol). The reaction mixture was stirred at room temperature overnight. After cooling to 0° C., a saturated ammonium chloride solution (50 mL) was added. The resultant mixture was extracted with DCM (3×50 mL). The organic extracts were combined, dried over MgSO4, filtered, evaporated, and dried in vacuo. The product was purified by flash chromatography (0-15% EtOAc/hexanes), affording (2,5-dichlorothiophen-3-yl)methanol (286 mg, 22% yield).

reactant | methyl 2,5-dichlorothiophene-3-carboxylate | 7.1 mmol, 1.5 g | ClC=1SC(=CC1C(=O)OC)Cl | C6H4Cl2O2S
reactant | sodium borohydride | 35.7 mmol, 1.35 g | [BH4-].[Na+]
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
solvent | methanol | 50 mL | CO | CH4O
product | (2,5-dichlorothiophen-3-yl)methanol | 286 mg, 22% yield | ClC=1SC(=CC1CO)Cl | C5H4Cl2OS
